US08735586B2
1-(4-Bromo-phenyl)-2-methyl-1H-benzoimidazole
The title compound was prepared with the analogous procedure described in example 1 using 1-Iodo-2-nitrobenzene (124 mg, 0.5 mmol) and N-(4-bromophenyl)-acetamide (128 mg, 0.6 mmol) as starting materials to yield the title compound as a yellow solid (109 mg, 76%). 1H NMR (DMSO) δ 2.63 (s, 3 H), 7.34 (d, J=7.9 Hz, 1H), 7.41 (t, J=7.9 Hz, 1 H), 7.48 (t, J=7.9 Hz, 1 H), 7.64 (d, J=8.6 Hz, 2 H), 7.82 (d, J=7.9 Hz, 1 H), 7.92 (d, J=8.6 Hz, 2 H); 13C NMR δ 12.8, 111.7, 115.4, 123.6, 125.1, 125.2, 129.3, 132.5, 133.3, 134.5, 152.8, 157.6.

reactant | 1-Iodo-2-nitrobenzene | 0.5 mmol, 124 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | N-(4-bromophenyl)-acetamide | 0.6 mmol, 128 mg | BrC1=CC=C(C=C1)NC(C)=O | C8H8BrNO
product | 1-(4-Bromo-phenyl)-2-methyl-1H-benzoimidazole | 109 mg, 76% | BrC1=CC=C(C=C1)N1C(=NC2=C1C=CC=C2)C | C14H11BrN2
